US06251925B1
Methyl 3′-[(2-[[(tert-butoxy)carbonyl]amino]ethyl)amino]-[1,1′-biphenyl]-3-carboxylate
To methyl 3′-[(2-[[(tert-butoxy)carbonyl]amino]acetylamino)]-[1,1′-biphenyl]-3-carboxylate (1.6 g) 0° C. was added a 1.0 M solution of borane in tetrahydrofuran (30 mL). The mixture was warmed to room temperature and stirred for 3 h. The mixture was quenched with saturated aqueous sodium bicarbonate and concentrated to leave a cloudy liquid that was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The separated organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated to give the crude product. Purification by silica gel chromatography provided the title compound (740 mg). Electrospray MS (positive ion): M+Na 393.0

reactant | methyl 3′-[(2-[[(tert-butoxy)carbonyl]amino]acetylamino)]-[1,1′-biphenyl]-3-carboxylate | 1.6 g | C(C)(C)(C)OC(=O)NCC(=O)NC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)OC | C21H24N2O5
reactant | borane | B | BH3
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | Methyl 3′-[(2-[[(tert-butoxy)carbonyl]amino]ethyl)amino]-[1,1′-biphenyl]-3-carboxylate | 740 mg | C(C)(C)(C)OC(=O)NCCNC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)OC | C21H26N2O4
